US04841021
4,4'-(1,4-Phenylene)bis(2,6-diphenylpyrylium) bis(tetrafluoroborate) was prepared as follows: To a solution of terephthaldehyde (0.40 mol) and acetophenone (2.4 mol) in ethanol (1.2 L) was added a solution of potassium hydroxide (0.50 mol) in water (100 mL). The solution was heated at reflux for 24 hours. The product, 1,4-bis(1,5-dioxo-1,5-diphenylpentan-3-yl)benzene, was collected by filtration, washed with ethanol (1 L), and dried. Fluoboric acid (0.11 mol) was added over a 30 minute period to a solution of triphenylmethanol (0.11 mol) in acetic anhydride (500 mL). Stirring was continued for 2 hours after addition was complete, then 1,4-bis(1,5-dioxo-1,5-diphenylpentan-3-yl)benzene (0.05 mol) was added and the mixture heated at reflux for 1 hour. The reaction mixture was cooled to room temperature, filtered, and the collected bis(pyrylium) salt was washed with acetone (250 mL) and dried at 50° C. at reduced pressure overnight.

reactant | terephthaldehyde | 0.40 mol | C1=CC(=CC=C1C=O)C=O | C8H6O2
reactant | acetophenone | 2.4 mol | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | potassium hydroxide | 0.50 mol | [OH-].[K+]
reactant | Fluoboric acid | 0.11 mol | [H+].[B-](F)(F)(F)F
reactant | triphenylmethanol | 0.11 mol | C1(=CC=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16O
reactant | 1,4-bis(1,5-dioxo-1,5-diphenylpentan-3-yl)benzene | 0.05 mol | O=C(CC(CC(C1=CC=CC=C1)=O)C1=CC=C(C=C1)C(CC(=O)C1=CC=CC=C1)CC(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C40H34O4
solvent | ethanol | 1.2 L | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
solvent | acetic anhydride | 500 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 4,4'-(1,4-Phenylene)bis(2,6-diphenylpyrylium) bis(tetrafluoroborate) | F[B-](F)(F)F.F[B-](F)(F)F.C1(=CC=C(C=C1)C1=CC(=[O+]C(=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=[O+]C(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C40H28O2.2BF4/c1-5-13-31(14-6-1)37-25-35(26-38(41-37)32-15-7-2-8-16-32)29-21-23-30(24-22-29)36-27-39(33-17-9-3-10-18-33)42-40(28-36)34-19-11-4-12-20-34;2*2-1(3,4)5/h1-28H;;/q+2;2*-1
